US08039463B2
DIPEA (453 mg, 3.51 mmol) was added to N-(5-phenyl-pyridin-2-yl)-malonamic acid (300 mg, 1.17 mmol), which was prepared following the synthetic route described in method II, in DMF (3 mL) followed by EDCI (336 mg, 1.75 mmol) and HOBT (189 mg, 1.4 mmol). After 2 minutes, piperazin-1-yl-(3,4,5-trifluoro-phenyl)-methanone hydrochloride (328 mg, 1.17 mmol) was added and stirring was continued at room temperature overnight. Cold water was then added and extracted with ethyl acetate. The organic layer was washed with brine, dried over Na2SO4, and concentrated under reduced pressure. Purification by preparative HPLC afforded 85 mg (15% yield) of 3-oxo-N-(5-phenyl-pyridin-2-yl)-3-[4-(3,4,5-trifluoro-benzoyl)-piperazin-1-yl]-propionamide. LC/S [M+H]+: 483.16, 97.03%. 1H NMR (300 MHz, DMSO-d6): δ 10.7 (s, 1H), 8.7 (s, 1H), 8.1 (s, 2H), 7.7 (d, 2H), 7.5 (m, 4H), 7.4 (m, 1H), 3.7-3.1 (bs, 2H), 3.6-3.2 (m, 8H).

reactant | DIPEA | 3.51 mmol, 453 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | N-(5-phenyl-pyridin-2-yl)-malonamic acid | 1.17 mmol, 300 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)NC(CC(=O)O)=O | C14H12N2O3
reactant | EDCI | 1.75 mmol, 336 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 1.4 mmol, 189 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | piperazin-1-yl-(3,4,5-trifluoro-phenyl)-methanone hydrochloride | 1.17 mmol, 328 mg | Cl.N1(CCNCC1)C(=O)C1=CC(=C(C(=C1)F)F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 3-oxo-N-(5-phenyl-pyridin-2-yl)-3-[4-(3,4,5-trifluoro-benzoyl)-piperazin-1-yl]-propionamide | 85 mg, 15% yield | O=C(CC(=O)NC1=NC=C(C=C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=CC(=C(C(=C1)F)F)F)=O | C25H21F3N4O3
